US07259183B2
Preparation of (4-tert-butyl-benzyl)-(3-methyl-butyl)-amine
0.44 ml of 4-tert-butylbenzylamine (2.5 mmol) and 0.414 ml of 3-methylbutyraldehyde (3.75 mmol) were dissolved in 7.5 ml methanol at rt and then refluxed for 1.5 h. After cooling down to rt, 114 mg (3 mmol) of sodium borohydride were added and the reaction mixture was then refluxed for 1.5 h. After cooling down to rt, the reaction mixture was treated with 5 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:1) to give 458 mg light yellow oil (78%). MS (ISP) 234.3 (M+H)+.

reactant | 4-tert-butylbenzylamine | 2.5 mmol, 0.44 ml | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | 3-methylbutyraldehyde | 3.75 mmol, 0.414 ml | CC(CC=O)C | C5H10O
reactant | sodium borohydride | 3 mmol, 114 mg | [BH4-].[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
catalyst | HCl | 1 N, 5 drops | Cl | ClH
product | (4-tert-butyl-benzyl)-(3-methyl-butyl)-amine | 78% | C(C)(C)(C)C1=CC=C(CNCCC(C)C)C=C1 | C16H27N
